US09315493B2
Process 2: A toluene (45 mL)-acetic acid (5 mL) mixture containing methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxohexanoate (1.2 g, 3.6 mmol) and ammonium acetate (8.3 g, 108 mmol) was refluxed under heating for 1 hour. After cooling to room temperature, saturated aqueous solution of sodium hydrogen carbonate was added and extraction was carried out with toluene. After washing with brine, it was dried over anhydrous sodium sulfate and concentrated in vacuo to give methyl (Z)-3-amino-2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-2-hexenoate (1.15 g) as brown oil crude product. It was used for the next process without purification.

reactant | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxohexanoate | 3.6 mmol, 1.2 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC(C(=O)OC)C(CCC)=O | C20H20N2O3
reactant | ammonium acetate | 108 mmol, 8.3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | methyl (Z)-3-amino-2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-2-hexenoate | 1.15 g | N\C(=C(/C(=O)OC)\CC=1C=NC(=CC1)C1=C(C=CC=C1)C#N)\CCC | C20H21N3O2
